US06492394B1
To a solution of 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-(triethylsilyloxy)butyric acid 3,4-methylenedioxybenzyl ester (3.3 g, 4.62 mmol) in argon deoxygenated 80% ethanol-tetrahydrofuran (100 mL) was added 10% Pd—C (2 g) and the resulting reaction mixture was hydrogenated at atmospheric pressure for 45 min. The reaction mixture was degassed under argon, the slurry was filtered over Celite, and the Celite pad was washed with ample 80% ethanol-methylene chloride. The filtrate was concentrated and azeotroped with tetrahydrofuran (200 mL) and the residue was dissolved in dimethylformamide (mL). O-Benzyl hydroxylamine (2.0 g,16.2 mmol), HOBT (0.71 g, 5.2 mmol), and EDAC (3.1 g, 16.2 mmol) were added and the reaction mixture was stirred for 16 h. The reaction mixture was diluted with ethyl acetate and was washed with 2.4 N aqueous hydrochloric acid and saturated aqueous sodium bicarbonate. The mixture was then dried over magnesium sulfate and concentrated in vacuo to afford crude N-benzyloxy-2(R)-[(3,4-methylenedioxy-benzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-hydroxybutyramide (1.25 g) which was taken directly into the next reaction without further purification.

reactant | 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-(triethylsilyloxy)butyric acid 3,4-methylenedioxybenzyl ester | 4.62 mmol, 3.3 g | C1OC=2C=C(COC([C@@H]([C@H](C)O[Si](CC)(CC)CC)N(S(=O)(=O)C3=C(C(=C(C=C3C)OC)C)C)CC3=CC4=C(C=C3)OCO4)=O)C=CC2O1 | C36H47NO10SSi
reactant | O-Benzyl hydroxylamine | 16.2 mmol, 2.0 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | HOBT | 5.2 mmol, 0.71 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 16.2 mmol, 3.1 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 2 g | [Pd] | Pd
solvent | ethanol tetrahydrofuran | 100 mL | C(C)O.O1CCCC1
product | N-benzyloxy-2(R)-[(3,4-methylenedioxy-benzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-hydroxybutyramide | 1.25 g | C(C1=CC=CC=C1)ONC([C@@H]([C@H](C)O)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC2=C(C=C1)OCO2)=O | C29H34N2O8S
